US09062032B2
A mixture of 8.00 g of methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 4.8 mL of pentan-3-amine, 3.5 mL of N-ethyl-N-isopropylpropan-2-amine, and 80 mL of DMF was stirred for 13 hours at 80° C. Ethyl acetate and water were added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed sequentially with water and saturated brine and dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was purified by silica gel column chromatography (2% methanol/chloroform), thereby obtaining 6.57 g of methyl 4-{2-[4-({[2-({3-[(pentan-3-ylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate.

reactant | methyl 4-[2-(4-{[(2-{[3-(chloromethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 8.00 g | ClCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C33H31ClN2O4S
reactant | pentan-3-amine | 4.8 mL | CCC(CC)N | C5H13N
reactant | N-ethyl-N-isopropylpropan-2-amine | 3.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-{2-[4-({[2-({3-[(pentan-3-ylamino)methyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 6.57 g | CCC(CC)NCC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C38H43N3O4S
